US06391901B1
Preparation of 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene
A mixture of 6-benzyloxy-2-(4-hydroxyphenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene (Part D), 4-bromobutyronitrile (1.2 mol/mol of phenol), and Cs2CO3 (2 mol/mol of phenol) in DMF (about 10 mL/mmol of phenol) was heated to 80° C. for 3 h, poured into 4 volumes of water and extracted with EtOAc. After drying (K2CO3) and evaporation, the title compound was obtained as a foam in 98% yield following MPLC (SiO2; 0.5% in CHCl3 sat'd with NH4OH).

reactant | 6-benzyloxy-2-(4-hydroxyphenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(C=C2)O)C1 | C34H33NO3S
reactant | 4-bromobutyronitrile | BrCCCC#N | C4H6BrN
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene | 98% yield | OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(C=C2)OCCCC#N)C1 | C31H32N2O3S
